US07091339B2
10-methoxy-5H-dibenz(b,f)azepine (29.9 g, 0.134 mol) was added to 300 ml acetonitrile in a three-neck flask (500 ml) equipped with a mechanical stirring apparatus. The mixture was stirred at room temperature for 15 minutes, and then NaOCN (18 g, 0.277 mol) was added, followed by pyridinium p-toluenesulfonate (75 g, 0.3 mol). The mixture was stirred at room temperature for about 4 hours, at which time TLC indicated that the reaction was complete (disappearance of 10-methoxy-5H-dibenz(b,f)azepine). 30 ml water was added, and the mixture stirred for 15 minutes. The solids were filtered and the filtrate was concentrated under vacuum. The semi-solid residue was triturated with acetone to provide a creamy solid, which was dried at 80° C. to provide 18 g (0.068 mol, 50% yield) of 10-methoxy-5H-dibenz[b,f]azepine-5-carboxamide (10-methoxycarbamazepine).

reactant | 10-methoxy-5H-dibenz(b,f)azepine | 0.134 mol, 29.9 g | COC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C15H13NO
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
reactant | NaOCN | 0.277 mol, 18 g | O([Na])C#N
reactant | pyridinium p-toluenesulfonate | 0.3 mol, 75 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | water | 30 ml | O | H2O
product | 10-methoxy-5H-dibenz[b,f]azepine-5-carboxamide | 0.068 mol, 18 g, 50% yield | COC1=CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C16H14N2O2
